US09238640B2
Preparation of 5,7-Dimethoxy-2-(4-(3-methylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one
A solution of 2-(4-(4-acetyl-3-methylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.340 g, 0.80 mmol) in 2 N HCl (5 mL) was heated to reflux and stirred for 3 days. Then, the resulting solution was cooled to room temperature, basified with 2 N NaOH, extracted with CH2Cl2, and concentrated in vacuo. The material was purified by flash chromatography on silica gel, eluting with 50% to 100% of 92:7:1 CHCl3/MeOH/concentrate NH4OH in CH2Cl2, to afford the title compound (0.03 g, 9%). 1H NMR (300 MHz, DMSO-d6): δ 10.76 (s, 1H), 8.08 (d, J=8.9 Hz, 2H), 6.99 (d, J=9.1 Hz, 2H), 6.67 (s, 1H), 6.46 (s, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 3.62-3.79 (m, 2H), 2.90-3.04 (m, 1H), 2.57-2.85 (m, 4H), 2.20-2.39 (m, 1H), 1.03 (d, J=6.3 Hz, 3H). ESI MS m/z 381 [M+H]+.

reactant | 2-(4-(4-acetyl-3-methylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.80 mmol, 0.340 g | C(C)(=O)N1C(CN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C23H26N4O4
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | HCl | 2 N, 5 mL | Cl | ClH
product | 5,7-Dimethoxy-2-(4-(3-methylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.03 g, 9% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CC(NCC1)C)=O | C21H24N4O3
